US03947434
B. 2-Ethoxy-5-methoxynitrobenzene
A mixture of 84.5 g. (0.5 m.) of 2-nitro-4-methoxyphenol (part A), 338 g. of K2CO3 and 1200 ml. of dimethylformamide was heated on a steam bath for 60 minutes, then there was added dropwise, 76.7 ml. (108.98 g. 1.0 m.) of ethyl bromide. The mixture was heated and stirred overnight, then poured into 5 liters of ice water. The product was collected by filtration, washed with H2O and air-dried to give 92 g. m.p. 37°-39°C.

reactant | 2-nitro-4-methoxyphenol | [N+](=O)([O-])C1=C(C=CC(=C1)OC)O | C7H7NO4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromide | 108.98 g | C(C)Br | C2H5Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Ethoxy-5-methoxynitrobenzene | C(C)OC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C9H11NO4
